US05077436
In the second step, a 500 ml glass reaction vessel was charged with 100 grams (0.21 mol) of 2,2-bis[4-(3-nitrophenoxy)phenyl]propane, 10 grams of active carbon, 1 gram of ferric chloride hexa-hydrate and 300 ml of ethyleneglycol monomethylether. The mixture was refluxed with stirring for 30 minutes, followed by dropping 42 grams (0.84 mol) of hydrazine hydrate at 70°-80° C. during 2 hours, and stirred for further 5 hours at 70°-80° C. The resultant reaction mixture was cooled, filtered to remove the catalyst and 150 ml of ethyleneglycol monomethylether was distilled off. To the residual matter, 270 grams of 20% aqueous hydrogen chloride solution and 30 grams of sodium chloride were added, and cooled to 20°-25° C. with stirring. The separated crystals were filtered, dissolved into 30% aqueous IPA solution and neutralized with aqueous ammonia to separate crystals. The crystals were filtered, washed with water, dried and recrystallized from a mixture of benezene and n-hexane. Colorless crystals of 2,2-bis[4-(3-aminophenoxy)phenyl]propane thus obtained were 69.2 grams (75% yield) and had a melting point of 106°-108° C. and their analytical results were as follows.

reactant | 2,2-bis[4-(3-nitrophenoxy)phenyl]propane | 0.21 mol, 100 grams | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OC2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C27H22N2O6
reactant | hydrazine hydrate | 0.84 mol, 42 grams | O.NN
solvent | ethyleneglycol monomethylether | 300 ml | COCCO | C3H8O2
product | 2,2-bis[4-(3-aminophenoxy)phenyl]propane | 75% yield | NC=1C=C(OC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OC2=CC(=CC=C2)N)C=CC1 | C27H26N2O2
